US05811456
Example 1: Preparation of the compound (I-a1): Benzaldehyde acetyl(2-cyanoethyl)hydrazone
10-2 moles of (2-cyanoethyl)hydrazine are added to a solution containing 10-2 moles of benzaldehyde in 20 ml of ethanol. The reaction is left under reflux for 30 minutes. At the end of the reaction, the mixture is cooled. After evaporation of the solvents, the product obtained is in the form of an extremely unstable oil. The crude reaction yield is 81%.

reactant | (2-cyanoethyl)hydrazine | 10-2 moles | C(#N)CCNN | C3H7N3
reactant | benzaldehyde | 10-2 moles | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | Benzaldehyde acetyl(2-cyanoethyl)hydrazone | C(C)(=O)N(N=CC1=CC=CC=C1)CCC#N | C12H13N3O
